US06677352B1
NaH (60% dispersion in oil, 18.0 mg, 0.434 mmol) was added to a cooled (0° C.) and stirred solution of ethyl mercaptoacetate (0.05 mL, 0.434 mmol) in DMF. After 0.5 h, 2-anilino-7-chloro-1-phenyl-5-(trifluoromethyl)-1,8-naphthyridin-4(1H)-one (150.0 mg, 0.361 mmol) was added as a solid in a single portion. The mixture was allowed to warm to room temperature and was stirred for 24 h. The reaction was quenched with water and extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. Purification by preparative HPLC (10% CH3CN in water with 0.1% TFA to 95% CH3CN in water, 10 mL/min, 10 min) provided ethyl {[7-anilino-5-oxo-8-phenyl-4-(trifluoromethyl)-5,8-dihydro-1,8-naphthyridin-2-yl]sulfanyl}acetate (50 mg, 53%): LCMS RT: 3.91 min, MH+: 500.2, Rf=0.24 (1:1 EtOAc:Hex).

reactant | NaH | 0.434 mmol, 18.0 mg | [H-].[Na+]
reactant | ethyl mercaptoacetate | 0.434 mmol, 0.05 mL | SCC(=O)OCC | C4H8O2S
reactant | 2-anilino-7-chloro-1-phenyl-5-(trifluoromethyl)-1,8-naphthyridin-4(1H)-one | 0.361 mmol, 150.0 mg | N(C1=CC=CC=C1)C=1N(C2=NC(=CC(=C2C(C1)=O)C(F)(F)F)Cl)C1=CC=CC=C1 | C21H13ClF3N3O
solvent | DMF | CN(C)C=O | C3H7NO
product | ethyl {[7-anilino-5-oxo-8-phenyl-4-(trifluoromethyl)-5,8-dihydro-1,8-naphthyridin-2-yl]sulfanyl}acetate | 50 mg, 53% | N(C1=CC=CC=C1)C1=CC(C=2C(=CC(=NC2N1C1=CC=CC=C1)SCC(=O)OCC)C(F)(F)F)=O | C25H20F3N3O3S
